US07528173B2
2-(3-(t-Butoxycarbonylamino)phenyl)-3-((4-phenylbutyl)(hydroxy)-phosphinoyl)propanoic acid methyl ester (845 mg, 1.8 mmol) was stirred in 1 M NaOH (5.3 mL, 5.3 mmol) in methanol/THF/H2O for 1.5 hours. The product was concentrated in vacuo. The residue was dissolved in 10 mL methylene chloride and TFA (10 mL) was added. After 45 minutes, the reaction mixture was concentrated to provide 2-(3-aminophenyl)-3-((4-phenylbutyl)(hydroxy)phosphinoyl)propanoic acid, NMR (DMSO-d6) 1.30-1.45 (m, 8), 1.80 (m, 1), 2.35 (m, 1), 3.62 (m, 1), 6.58-6.65 (m, 3), 7.05 (m, 1), 7.15 (m, 3), 7.23 (m, 2) ppm; as a crude product. Pure product was obtained by preparative reversed-phase HPLC.

reactant | 2-(3-(t-Butoxycarbonylamino)phenyl)-3-((4-phenylbutyl)(hydroxy)-phosphinoyl)propanoic acid methyl ester | 1.8 mmol, 845 mg | COC(C(CP(=O)(O)CCCCC1=CC=CC=C1)C1=CC(=CC=C1)NC(=O)OC(C)(C)C)=O | C25H34NO6P
reactant | NaOH | 5.3 mmol, 1 M, 5.3 mL | [OH-].[Na+]
solvent | methanol THF H2O | CO.C1CCOC1.O
product | 2-(3-aminophenyl)-3-((4-phenylbutyl)(hydroxy)phosphinoyl)propanoic acid | NC=1C=C(C=CC1)C(C(=O)O)CP(=O)(O)CCCCC1=CC=CC=C1 | C19H24NO4P
